US07211572B2
2-(3-Chlorobenzyl)-9-hydroxy-7-isobutylamino-2H-pyrido[1,2-a]pyrazine-1,8-dione hydrochloride (23 mg) was added to chloroform (2 ml), and pyridine (0.062 ml) and acetyl chloride (0.024 ml) were successively added at 0° C. The mixture was stirred at room temperature for 2 hr. 5% Aqueous potassium hydrogen sulfate solution was added to the obtained reaction mixture, and the mixture was extracted with ethyl acetate. The solvent was evaporated and the obtained residue was dissolved in tetrahydrofuran (0.5 ml)-methanol (0.1 ml), and 1N aqueous sodium hydroxide solution (0.084 ml) was added. The mixture was stirred at room temperature for 30 min. 2N Aqueous hydrochloric acid (0.056 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried and concentrated. Crystallization from ethyl acetate-diisopropyl ether gave N-[2-(3-chlorobenzyl)-9-hydroxy-1,8-dioxo-1,8-dihydro-2H-pyrido[1,2-a]pyrazin-7-yl]-N-isobutylacetamide (18.2 mg).

reactant | 2-(3-Chlorobenzyl)-9-hydroxy-7-isobutylamino-2H-pyrido[1,2-a]pyrazine-1,8-dione hydrochloride | 23 mg | Cl.ClC=1C=C(CN2C(C=3N(C=C2)C=C(C(C3O)=O)NCC(C)C)=O)C=CC1
reactant | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
reactant | acetyl chloride | 0.024 ml | C(C)(=O)Cl | C2H3ClO
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | pyridine | 0.062 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-(3-chlorobenzyl)-9-hydroxy-1,8-dioxo-1,8-dihydro-2H-pyrido[1,2-a]pyrazin-7-yl]-N-isobutylacetamide | 18.2 mg | ClC=1C=C(CN2C(C=3N(C=C2)C=C(C(C3O)=O)N(C(C)=O)CC(C)C)=O)C=CC1 | C21H22ClN3O4
